US04489003
12 g (26.6 mmol) of tert.butyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate, 70 ml (660 mmol) of cyclohexanol and 2 g (8 mmol) of tetraethyl orthotitanate are stirred at 120° overnight, the solution is evaporated to dryness and the residue is taken up in chloroform. The solution obtained is stirred for 0.5 hour with 120 ml of a saturated potassium fluoride solution, the resulting emulsion is filtered through siliceous earth, the organic phase is separated, washed with water, dried over magnesium sulphate and evaporated. By crystallization from ethyl acetate and hexane there is obtained cyclohexyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate of melting point 124°-125°.

reactant | tert.butyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | 26.6 mmol, 12 g | IC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC(C)(C)C)CC1)=O | C18H18IN3O3
reactant | cyclohexanol | 660 mmol, 70 ml | C1(CCCCC1)O | C6H12O
catalyst | tetraethyl orthotitanate | 8 mmol, 2 g | CCO.CCO.CCO.CCO.[Ti]
solvent | potassium fluoride | 120 ml | [F-].[K+]
product | cyclohexyl (S)-12,12a-dihydro-8-iodo-9-oxo-9H,11H-azeto[2,1-c]imidazo[1,5-a][1,4]benzodiazepine-1-carboxylate | IC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C(=O)OC3CCCCC3)CC1)=O | C20H20IN3O3
